US06462198B1
9H-Xanthene-9-carboxylic acid (5-cyclopropylmethyl-[1,3,4]oxadiazol-2-yl)-amide.
The title compound, white solid, m.p. 234-236° C. and MS: m/e=347.1(M+H+) was prepared in accordance with the general method of example 48a from (3,5-dimethylpyrazol-1-yl)-(9H-xanthen-9-yl)-methanone and 5-cyclopropylmethyl-[1,3,4]oxadiazol-2-ylamine.

reactant | (3,5-dimethylpyrazol-1-yl)-(9H-xanthen-9-yl)-methanone | CC1=NN(C(=C1)C)C(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C19H16N2O2
reactant | 5-cyclopropylmethyl-[1,3,4]oxadiazol-2-ylamine | C1(CC1)CC1=NN=C(O1)N | C6H9N3O
product | 9H-Xanthene-9-carboxylic acid (5-cyclopropylmethyl-[1,3,4]oxadiazol-2-yl)-amide | C1(CC1)CC1=NN=C(O1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C20H17N3O3
